US09035062B2
(2S,5R)-tert-Butyl 6-(allyloxy)-7-oxo-1,6-diazabicyclo[3.2.1]octane-2-carboxylate (F2)
140 mg (0.421 mmol) of (2S,5R)-tert-butyl 6-(benzyloxy)-7-oxo-1,6-diazabicyclo[3.2.1]octane-2-carboxylate was dissolved in ethanol (3.1 mL), and 14 mg of 10% palladium-carbon (50% water content) was added, followed by stirring at room temperature for 1 hour under hydrogen atmosphere. The catalyst of the reaction mixture was filtered through celite, and the residue resulting from concentration of the solvent under reduced pressure was dissolved in acetonitrile (4.1 mL), and 62 mg (0.449 mmol) of anhydrous potassium carbonate and 70 μL (0.809 mmol) of allyl bromide were added, followed by stifling at room temperature for 3 hours. After the reaction mixture was concentrated under reduced pressure, the residue was diluted with ethyl acetate and washed sequentially with water, saturated aqueous ammonium chloride solution and saturated brine, subsequently the organic layer was dried over anhydrous magnesium sulfate, and the solvent was concentrated under reduced pressure. The resulting residue was applied to silica gel column chromatography (n-hexane/ethyl acetate=5/2) to afford 60.8 mg of the title compound (yield 54%). Enantiomeric excess: 99.9% ee or more (CHIRALPAK AD-H, 4.6×150 mm, hexane/ethanol=2/1, UV 210 nm, flow rate 1 mL/min., retention time 4.8 min.).

reactant | (2S,5R)-tert-butyl 6-(benzyloxy)-7-oxo-1,6-diazabicyclo[3.2.1]octane-2-carboxylate | 0.421 mmol, 140 mg | C(C1=CC=CC=C1)ON1[C@@H]2CC[C@H](N(C1=O)C2)C(=O)OC(C)(C)C | C18H24N2O4
reactant | potassium carbonate | 0.449 mmol, 62 mg | C([O-])([O-])=O.[K+].[K+]
reactant | allyl bromide | 0.809 mmol, 70 μL | C(C=C)Br | C3H5Br
solvent | ethanol | 3.1 mL | C(C)O | C2H6O
solvent | acetonitrile | 4.1 mL | C(C)#N | C2H3N
catalyst | palladium-carbon | 14 mg | [C].[Pd]
product | (2S,5R)-tert-Butyl 6-(allyloxy)-7-oxo-1,6-diazabicyclo[3.2.1]octane-2-carboxylate | 60.8 mg, yield 54% | C(C=C)ON1[C@@H]2CC[C@H](N(C1=O)C2)C(=O)OC(C)(C)C | C14H22N2O4
